US05624937
2-Chlorobenzimidazole (0.033 moles, 5.0 g), 4-nitrothiophenol (0.033 moles, 4.14 g), and DBU (0.033 moles, 5.0 g) in 200 ml ethanol were heated at 55° C. for 3 hr. The reaction was concentrated, ethyl acetate added, washed with water, dried over sodium sulfate and the solvent removed. The solid was slurred in hexane to yield 2-(4-nitrophenylthio)benzimidazole 1.37 g, 15%. Mass Spec (FD) 271. Calculated for C13H8N3O2S: C, 57.55; H, 3.34; N, 15.49. Found: C, 57.50; H, 5.54; N, 15.23.

reactant | 2-Chlorobenzimidazole | 0.033 moles, 5.0 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 4-nitrothiophenol | 0.033 moles, 4.14 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | DBU | 0.033 moles, 5.0 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(4-nitrophenylthio)benzimidazole | 1.37 g, 15% | [N+](=O)([O-])C1=CC=C(C=C1)SC=1NC2=C(N1)C=CC=C2 | C13H9N3O2S
